US06459805B1
Fluorescein diacetate (FDA) (Sigma Chemical Co., St. Louis, Mo.), or 2′,7′-bis-(2-carboxyethyl)-5(and-6) carboxyfluorescein, acetoxymethyl ester (BCECF-AM) (Molecular Probes, Inc., Eugene, Oreg.) was dissolved in dimethyl sulfoxide (DMSO) to produce a 1 mg/ml stock solution. The stock was filtered through 0.8 μm nylon, aliquoted into 1.5 ml microfuge tubes and stored frozen at −20° C. in the dark. For individual assays, an intermediate stock was prepared by thawing and diluting an aliquot with RPMI-1640+10% Fetal Calf Serum (FCS) such that adding 50 μl of dye solution to a well would produce a final concentration of 8 μg/ml. To minimize reaction with endogenous enzymes in the FCS (which could increase the background fluorescence by cleaving ester groups to form free fluorescein), intermediate dilutions were prepared immediately prior to loading each individual plate.

reactant | Fluorescein diacetate | CC(=O)OC=1C=CC2=C(C1)OC=3C=C(C=CC3C24C=5C=CC=CC5C(=O)O4)OC(=O)C | C24H16O7
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | fluorescein | C=1C=CC(=C(C1)C2=C3C=CC(=O)C=C3OC4=C2C=CC(=C4)O)C(=O)O | C20H12O5
